US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (379 mg, 1.63 mmol), HOTT (662 mg, 1.78 mmol), and DIPEA (800 μL, 4.58 mmol) in DMF (10 mL) is stirred at rt under N2 for 10 min. 5-Chloro-2-methyl-indol-1-ylamine (274 mg, 1.52 mmol) is added. The resulting mixture is stirred at 80° C. overnight. The mixture is cooled and portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is triturated in ether to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-chloro-2-methyl-indol-1-yl)-amide (93 mg, 16%) as a solid. MS: 395 (M+H). 1H NMR (300 MHz, DMSO-d6): δ 11.83 (s, 1H), 9.27 (s, 1H), 8.33 (d, 1H), 8.20-8.15 (m, 1H), 7.69-7.61 (m, 1H), 7.56 (d, 1H), 7.50-7.43 (m, 2H), 6.36 (s, 1H), 2.78 (s, 3H), 2.37 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.63 mmol, 379 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HOTT | 1.78 mmol, 662 mg | CN(C)C(=[N+](C)C)SC1=CC=CC=[N+]1[O-].F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.58 mmol, 800 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Chloro-2-methyl-indol-1-ylamine | 1.52 mmol, 274 mg | ClC=1C=C2C=C(N(C2=CC1)N)C | C9H9ClN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-chloro-2-methyl-indol-1-yl)-amide | 93 mg, 16% | ClC=1C=C2C=C(N(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)C | C21H16ClFN4O
